US07384945B2
1-{4-[3-(4-Chloro-benzyl)-6-fluoro-2-phenoxymethyl-3H-benzoimidazol-5-yl]-piperazin-1yl}-2-phenyl-ethanone
72 mg of 1-(4-chloro-benzyl)-5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1H-benzoimidazole (0.16 mmol) and 0.033 ml TEA (0.24 mmol) were dissolved in 1.5 ml dichloromethane and treated with 0.027 ml phenyl-acetyl chloride (0.2 mmol). After 22 h stirring at reflux, the reaction mixture was diluted with dichloromethane, washed with water, saturated sodium bicarbonate and brine, dried with magnesium sulfate, filtered and concentrated in vacuo, leading to 90 mg of a light brown solid (94%). MS (ISP) 469.3 (M+H)+.

reactant | 1-(4-chloro-benzyl)-5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1H-benzoimidazole | 0.16 mmol, 72 mg | ClC1=CC=C(CN2C(=NC3=C2C=C(C(=C3)F)N3CCNCC3)COC3=CC=CC=C3)C=C1 | C25H24ClFN4O
reactant | phenyl-acetyl chloride | 0.2 mmol, 0.027 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | 1-{4-[3-(4-Chloro-benzyl)-6-fluoro-2-phenoxymethyl-3H-benzoimidazol-5-yl]-piperazin-1yl}-2-phenyl-ethanone | ClC1=CC=C(CN2C(=NC3=C2C=C(C(=C3)F)N3CCN(CC3)C(CC3=CC=CC=C3)=O)COC3=CC=CC=C3)C=C1 | C33H30ClFN4O2
